US08912188B2
To a solution of methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (450 mg, 1.42 mmol) in DMSO (5.0 ml) was added 2-(1,2,3,6-tetrahydropyridin-4-yl)pyridine (300 mg, 1.87 mmol) and DIEA (361 mg, 2.79 mmol), and the reaction mixture was stirred overnight at 90° C. The reaction mixture was extracted with ethyl acetate (3×50 ml), and the organic layers combined, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the residue, which was purified by preparative silica gel plate chromatography (dichloromethane:ethyl acetate:petroleum ether (40:1:12)) to afford methyl 2-(4-fluorophenyl)-3-(4-(pyridin-2-yl)-5,6-dihydropyridin-1(2H)-yl)quinoxaline-6-carboxylate as a yellow solid (410 mg).

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 1.42 mmol, 450 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | 2-(1,2,3,6-tetrahydropyridin-4-yl)pyridine | 1.87 mmol, 300 mg | N1CCC(=CC1)C1=NC=CC=C1 | C10H12N2
reactant | DIEA | 2.79 mmol, 361 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 5.0 ml | CS(=O)C | C2H6OS
product | methyl 2-(4-fluorophenyl)-3-(4-(pyridin-2-yl)-5,6-dihydropyridin-1(2H)-yl)quinoxaline-6-carboxylate | 410 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CC=C(CC1)C1=NC=CC=C1)C(=O)OC | C26H21FN4O2
